US08012901B1
1-(2,6-Dimethyl-phenoxy)-propan-2-one (9b)
Prepared by 1-chloro-propan-2-one (50 mmol) and 2,6-dimenthylphenol (60 mmol); purified by silica gel/hexane:ethyl acetate (5:1) column chromatography as a colorless oil; yield 84% (7.5 g); H NMR (400 MHz, CDCl3): d 2.34 (s, 6H, CH3), 2.42 (s, 3H, CH3), 4.40 (s, 2H, OCH2), 7.02-7.10 (m, 3H, Ar); CNMR (100 MHz, CDCl3): δ 16.3, 26.6, 76.8, 124.5, 129.1, 130.6, 155.0, 205.4; GC-MS m/z 178.1 (M+).

reactant | 1-chloro-propan-2-one | 50 mmol | ClCC(C)=O | C3H5ClO
reactant | 2,6-dimenthylphenol | 60 mmol | C1(CC(C(CC1)C(C)C)C1=C(C(=CC=C1)C1CC(CCC1C(C)C)C)O)C | C26H42O
product | 1-(2,6-Dimethyl-phenoxy)-propan-2-one | yield 84% | CC1=C(OCC(C)=O)C(=CC=C1)C | C11H14O2
